US08334236B2
(5) Production of ethyl 1-(6-methoxy-3-pyridyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate
6.4 g (28 mmol) of 2-(6-methoxy-3-pyridinylamino)nicotinaldehyde was dissolved in ethanol (50 mL), and 6.7 g (42 mmol) of diethyl malonate and 0.95 g (11 mmol) of piperidine were added thereto. The resulting mixture was stirred for 4 hours at 100° C. The solvent was distilled off under reduced pressure from the reaction mixture, and the residue was washed with a mixed solution of ethyl acetate and diisopropyl ether. Thus, 4.1 g of the title compound was obtained as a pale yellow solid (yield: 45%).

reactant | 2-(6-methoxy-3-pyridinylamino)nicotinaldehyde | 28 mmol, 6.4 g | COC1=CC=C(C=N1)NC1=C(C=O)C=CC=N1 | C12H11N3O2
reactant | diethyl malonate | 42 mmol, 6.7 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 11 mmol, 0.95 g | N1CCCCC1 | C5H11N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 1-(6-methoxy-3-pyridyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 4.1 g | COC1=CC=C(C=N1)N1C(C(=CC2=CC=CN=C12)C(=O)OCC)=O | C17H15N3O4
